US06486325B1
6-Methoxy-1-methyl-1-trifluoromethyl-isochroman
To a solution of 6-methoxy-1-methyl-1-trifluoromethyl-isochroman-3-ol (8.36 g, 31.9 mmol) in dichloromethane (84 mL) was added triethylsilane (15.3 mL, 95.8 mmol) followed by trifluoroacetic acid (14.7 mL, 191 mmol). The reaction was stirred at room temperature for 2 hours and was poured into 1N aqueous sodium hydroxide (250 mL). The organic layer was separated and washed with 1N aqueous sodium hydroxide (100 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated to afford 6-methoxy-1-methyl-1-trifluoromethyl-isochromanas an oil (6.88 g, 88%). 1H NMR (300 MHz, CDCl3) δ1.69 (s, 3), 2.85-2.90 (m, 2), 3.85 (s, 3), 3.90-3.98 (m, 1), 4.14-4.21 (m, 1), 6.72 (d, 1, J=2.6), 6.85 (dd, 1, J=8.7, 2.6), 7.31 (d, 1, J=8.7). 13C NMR (100 MHz, CDCl3) δ23.25, 29.42, 55.19, 61.37, 76.10 (q, J=27.4), 112.84, 113.43, 124.85, 125.96 (q, J=289), 127.86, 136.49, 158.98. IR2946, 2839, 1738, 1611, 1505, 1162, 1137, 1101 cm−1. Analysis calculated for C12H13F3O2: C, 58.54; H, 5.32. Found: C, 58.27; H, 5.35.

reactant | 6-methoxy-1-methyl-1-trifluoromethyl-isochroman-3-ol | 31.9 mmol, 8.36 g | COC=1C=C2CC(OC(C2=CC1)(C(F)(F)F)C)O | C12H13F3O3
reactant | triethylsilane | 95.8 mmol, 15.3 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 191 mmol, 14.7 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 1N, 250 mL | [OH-].[Na+]
solvent | dichloromethane | 84 mL | ClCCl | CH2Cl2
product | 6-Methoxy-1-methyl-1-trifluoromethyl-isochroman | 6.88 g, 88% | COC=1C=C2CCOC(C2=CC1)(C(F)(F)F)C | C12H13F3O2
